US09024027B2
To a solution of methyl 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxoindolin-1-yl)acetate (0.100 g, 0.243 mmol) in dioxane (5 ml), aqueous 37% HCl (5 ml) was added, and the mixture was stirred at room temperature overnight. The volatiles were removed under vacuum and crude 2-(5-(N-(2-morpholinoethyl)-methylsulfonamido)-2-oxoindolin-1-yl)acetic acid hydrochloride (0.105 g, 0.242 mmol, 100% yield, MS/ESI+ 398.0 [MH]+) was used as such in the next step.

reactant | methyl 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxoindolin-1-yl)acetate | 0.243 mmol, 0.100 g | O1CCN(CC1)CCN(S(=O)(=O)C)C=1C=C2CC(N(C2=CC1)CC(=O)OC)=O | C18H25N3O6S
reactant | HCl | 5 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(5-(N-(2-morpholinoethyl)-methylsulfonamido)-2-oxoindolin-1-yl)acetic acid hydrochloride | 0.242 mmol, 0.105 g, 100% yield | Cl.O1CCN(CC1)CCN(S(=O)(=O)C)C=1C=C2CC(N(C2=CC1)CC(=O)O)=O | InChI=1S/C17H23N3O6S.ClH/c1-27(24,25)20(5-4-18-6-8-26-9-7-18)14-2-3-15-13(10-14)11-16(21)19(15)12-17(22)23;/h2-3,10H,4-9,11-12H2,1H3,(H,22,23);1H
